US05952511
(RS)-1-(2,2-Diethoxyethyl)-3-(hydroxycarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one
To a solution of 8.21 g of (RS)-3-(ethoxycarbonylmethyl)-1-(2,2-diethoxyethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one in 100 ml of methanol was added 30 ml of an aqueous solution of 2.0 g of potassium hydroxide (85%) at room temperature, followed by stirring for 6 hours. The reaction mixture was concentrated, and the concentrate was diluted with water, which was washed with chloroform. The aqueous layer was adjusted to pH 2 by addition of 2N hydrochloric acid, and extracted with chloroform, and the organic layer was dried over anhydrous sodium sulfate and concentrated to yield 6.63 g (86%) of the title compound.

reactant | (RS)-3-(ethoxycarbonylmethyl)-1-(2,2-diethoxyethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one | 8.21 g | C(C)OC(=O)CC1(C(N(C2=CC=CC=C12)CC(OCC)OCC)=O)NC(=O)NC1=CC=C(C=C1)C | C26H33N3O6
reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | (RS)-1-(2,2-Diethoxyethyl)-3-(hydroxycarbonylmethyl)-3-(N'-(4-methylphenyl)ureido)indolin-2-one | 6.63 g, 86% | C(C)OC(CN1C(C(C2=CC=CC=C12)(NC(=O)NC1=CC=C(C=C1)C)CC(=O)O)=O)OCC | C24H29N3O6
